US05703116
Preparation of 6-Methoxy-3-Chlorobenzo[b]thiophene-2-Hydrazide
A 100 ml, round bottomed flask, reflux condenser, gas inlet and Teflon stirrer were oven dried for 12 hours at 160° C. The apparatus was rapidly assembled, flushed with dry nitrogen gas, and cooled to room temperature. The reaction flask was charged with methyl 6-methoxy-3-chlorobenzo[b]thiophene-2-carboxylate (1.50 g, 5.85 mmole), anhydrous methanol (Aldrich, 50 ml), and anhydrous hydrazine (Aldrich, 2.5 equivalents, 0.47 g, 0.45 ml, 14.61 mmole). The stirred reaction mixture was brought to reflux and the progress of the reaction monitored by TLC (Silica, 1:1 hexane:ethyl acetate, and 100% ethyl acetate, iodine and UV visualization). After 72 hours, the completed reaction was cooled to room temperature, and further cooled to 5° C. for 1 hour. The resulting solid was filtered, washed with cold methanol (2×10 ml), and dried in vacuo. This resulted in 0.856 g of the desired material, as a white amorphous powder which was used directly.

reactant | methyl 6-methoxy-3-chlorobenzo[b]thiophene-2-carboxylate | 5.85 mmole, 1.50 g | COC=1C=CC2=C(SC(=C2Cl)C(=O)OC)C1 | C11H9ClO3S
reactant | methanol | 50 ml | CO | CH4O
reactant | hydrazine | 14.61 mmole, 0.45 ml, 0.47 g, 2.5 equivalents | NN | H4N2
reactant | iodine | II | I2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 6-Methoxy-3-Chlorobenzo[b]thiophene-2-Hydrazide | 0.856 g | COC=1C=CC2=C(SC(=C2Cl)C(=O)NN)C1 | C10H9ClN2O2S
